US06262056B1
2. 1-(5-methylbenzo[b]thiophen-3-yl)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-1-one dihydrochloride
650 mg of 3-acetyl-5-methylbenzo[b]thiophene (3.42×10−3 moles) and 860 mg of 2-methoxyphenylpiperazine hydrochloride (3.76×10−3 moles) were dissolved in 15 ml of EtOH and HCl to pH=2-3. When the mixture was under reflux, 310 mg of paraformaldehyde (10×10−3 moles) were added. After 24 hours stirring under reflux the reaction mixture was poured over ice and was extracted with AcOEt. It was washed with H2O and dried with Na2SO4, the solvent being removed to dryness. It was purified in silica column using AcOEt/hexane (1:1) as mobile phase. The oil obtained was dissolved in ethyl ether (20 ml) and EtOH (4 ml) and precipitates as hydrochloride on adding HCl(c). Yield: 10%.

reactant | 3-acetyl-5-methylbenzo[b]thiophene | 3.42×10−3 moles, 650 mg | C(C)(=O)C=1C2=C(SC1)C=CC(=C2)C | C11H10OS
reactant | 2-methoxyphenylpiperazine hydrochloride | 3.76×10−3 moles, 860 mg | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | HCl | Cl | ClH
reactant | paraformaldehyde | 10×10−3 moles, 310 mg | C=O | CH2O
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | 1-(5-methylbenzo[b]thiophen-3-yl)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-1-one dihydrochloride | Yield: 10% | Cl.Cl.CC1=CC2=C(SC=C2C(CCN2CCN(CC2)C2=C(C=CC=C2)OC)=O)C=C1 | InChI=1S/C23H26N2O2S.2ClH/c1-17-7-8-23-18(15-17)19(16-28-23)21(26)9-10-24-11-13-25(14-12-24)20-5-3-4-6-22(20)27-2;;/h3-8,15-16H,9-14H2,1-2H3;2*1H
